US04659721
(c) Preparation of 1-Dibenzylamino-3-[3-(1-piperidylmethyl)-phenyl]-2-propanol
10.2 g (0.04 mol) of 3-(1-piperidylmethyl)-bromobenzene in 20 ml of tetrahydrofuran are added dropwise to 0.97 g (0.04 mol) of magnesium filings in 5 ml of tetrahydrofuran at a reaction temperature of 60° C. This operation is followed by 30 minutes' stirring at 60° C., and the solution is then cooled to 10° C. 10.2 g (0.04 mol) of 2-benzylaminomethyl-oxirane in 20 ml of tetrahydrofurane are slowly added dropwise and the solution obtained is stirred at room temperature for 2 hours. After the addition of 20 ml of ice water and 4.5 g of ammonium chloride, the aqueous phase is separated and extracted with 25 ml of methylene chloride. The combined organic phases are dehydrated with sodium sulphate and concentrated by evaporation to yield a yellow resin which is chromatographed with methylene chloride/methanol (9:1) against silica gel. After concentration by evaporation, the second fraction yields the title compound as a pale yellow oil.

reactant | 3-(1-piperidylmethyl)-bromobenzene | 0.04 mol, 10.2 g | N1(CCCCC1)CC=1C=C(C=CC1)Br | C12H16BrN
reactant | magnesium | 0.04 mol, 0.97 g | [Mg] | Mg
reactant | 2-benzylaminomethyl-oxirane | 0.04 mol, 10.2 g | C(C1=CC=CC=C1)NCC1OC1 | C10H13NO
reactant | ammonium chloride | 4.5 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
product | 1-Dibenzylamino-3-[3-(1-piperidylmethyl)-phenyl]-2-propanol | C(C1=CC=CC=C1)N(CC(CC1=CC(=CC=C1)CN1CCCCC1)O)CC1=CC=CC=C1 | C29H36N2O
